US05371101
In the same manner as in Reference Example 5, starting from 0.70 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.62 g of 2-(4-chlorophenyl)-5-methyl-3(2H,4H)-1,2,4-triazolone, 0.28 g of 2-(4-chlorophenyl)-4[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3(2H,4H)-1,2,4-triazolone was obtained as a colorless oil.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.70 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 2-(4-chlorophenyl)-5-methyl-3(2H,4H)-1,2,4-triazolone | 0.62 g | ClC1=CC=C(C=C1)N1N=C(NC1=O)C | C9H8ClN3O
product | 2-(4-chlorophenyl)-4[(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1-methylpropyl]-3(2H,4H)-1,2,4-triazolone | 0.28 g | ClC1=CC=C(C=C1)N1N=CN(C1=O)[C@@H]([C@]1(CO1)C1=C(C=C(C=C1)F)F)C | C18H14ClF2N3O2
